US04551417
In a three-neck flask having a capacity of 500 ml, 26 g (0.2 moles) of 2-hydroxyethyl methacrylate (abbreviated to HEMA) and 16 g of pyridine were dissolved in 200 ml of carbon tetrachloride. At room temperature, 107.5 g (0.2 moles) of trimethylchlorosilane was slowly dropped into the solution in the flask to complete the addition of the entire amount in 30 min. During this process precipitation of hydrochloric acid salt of pyridine took place. After filtration, carbon tetrachloride in the reaction liquid was distilled out by using an evaporater, and the remaining liquid was distilled under reduced pressure to obtain 37 g of 2-trimethylsiloxyethyl methacrylate (abbreviated to HEMA-Si).

reactant | 2-hydroxyethyl methacrylate | 0.2 moles, 500 ml, 26 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | pyridine | 16 g | N1=CC=CC=C1 | C5H5N
reactant | trimethylchlorosilane | 0.2 moles, 107.5 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-trimethylsiloxyethyl methacrylate | 37 g | C(C(=C)C)(=O)OCCO[Si](C)(C)C | C9H18O3Si
